US06028074
(b) 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-2-(2-{phenylsulfonylmethyl}phenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-1H-pyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione (94 mg), potassium carbonate (90 mg) and 2-(phenylsulfonylmethyl)benzyl bromide (105 mg) were combined in dimethylsulfoxide (11 ml). After 5 hours at room temperature the reaction mixture was diluted with ethyl acetate and washed thrice with water, twice with dilute hydrochloric acid, once with brine, then dried over magnesium sulfate and then concentrated in vacuo. Chromatography on silica gel (isohexane:isopropanol 4:1) gave the title compound (70 mg).

reactant | 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-1H-pyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione | 94 mg | OCCCSC1=NNC=2N(C(N(C(C21)=O)C)=O)CC(C)C | C13H20N4O3S
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(phenylsulfonylmethyl)benzyl bromide | 105 mg | C1(=CC=CC=C1)S(=O)(=O)CC1=C(CBr)C=CC=C1 | C14H13BrO2S
solvent | dimethylsulfoxide | 11 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-2-(2-{phenylsulfonylmethyl}phenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 70 mg | OCCCSC=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)CS(=O)(=O)C2=CC=CC=C2 | C27H32N4O5S2
